US09102616B2
Intermediate 2: Synthesis of 11-bromo-9H-dibenzo[a,c]carbazole
A 250 mL round bottom flask was charged with 9-(4-bromo-2-nitrophenyl)phenanthrene (26.36 g, 69.69 mmol), and triethyl phosphate (84.84 mL, 487.86 mmol), and the mixture was heated under reflux at 160° C. to 165° C. for 14 hours. After the reaction was completed, the remaining triethyl phosphate was removed by vacuum distillation. The resultant product was diluted with a mixed solvent of MeOH:H2O=1:1, and the produced solid was filtered. The obtained solid was washed with a mixed solvent of MeOH:H2O=1:1, and petroleum ether. The solid was dissolved in methylene chloride, dried with MgSO4, and concentrated, and purified by silica gel column (petroleum ether:methylene chloride=2:1). Then, 14.96 g of a product (62%) was obtained.

reactant | 9-(4-bromo-2-nitrophenyl)phenanthrene | 69.69 mmol, 26.36 g | BrC1=CC(=C(C=C1)C=1C2=CC=CC=C2C=2C=CC=CC2C1)[N+](=O)[O-] | C20H12BrNO2
reactant | triethyl phosphate | 487.86 mmol, 84.84 mL | P(=O)(OCC)(OCC)OCC | C6H15O4P
product | 11-bromo-9H-dibenzo[a,c]carbazole | 14.96 g, 62% | BrC=1C=CC=2C3=C4C(=C5C(=C3NC2C1)C=CC=C5)C=CC=C4 | C20H12BrN
